US09353096B2
(S)-1,1,1-Trifluoro-3-[2-(4-trifluoromethyl-phenyl)-morpholin-4-yl]-propan-2-ol (52 mg, 151 μmol) and 1-chloro-4-isocyanatobenzene (25.6 mg, 167 μmol) were combined in acetonitrile (2 mL). The mixture was stirred at room temperature overnight and evaporated. The residue was purified by flash chromatography (20% EtOAc/hexanes) to provide the front-running isomer, which was converted to the HCl salt to afford (4-chloro-phenyl)-carbamic acid (S)-2,2,2-trifluoro-1-[(R)-2-(4-trifluoromethyl-phenyl)-morpholin-4-ylmethyl]-ethyl ester hydrochloride as a white solid (30 mg). (M+H)+=497 m/e.

reactant | (S)-1,1,1-Trifluoro-3-[2-(4-trifluoromethyl-phenyl)-morpholin-4-yl]-propan-2-ol | 151 μmol, 52 mg | FC([C@H](CN1CC(OCC1)C1=CC=C(C=C1)C(F)(F)F)O)(F)F | C14H15F6NO2
reactant | 1-chloro-4-isocyanatobenzene | 167 μmol, 25.6 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | HCl | Cl | ClH
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (4-chloro-phenyl)-carbamic acid (S)-2,2,2-trifluoro-1-[(R)-2-(4-trifluoromethyl-phenyl)-morpholin-4-ylmethyl]-ethyl ester hydrochloride | 30 mg | Cl.FC([C@H](CN1C[C@H](OCC1)C1=CC=C(C=C1)C(F)(F)F)OC(NC1=CC=C(C=C1)Cl)=O)(F)F | InChI=1S/C21H19ClF6N2O3.ClH/c22-15-5-7-16(8-6-15)29-19(31)33-18(21(26,27)28)12-30-9-10-32-17(11-30)13-1-3-14(4-2-13)20(23,24)25;/h1-8,17-18H,9-12H2,(H,29,31);1H/t17-,18-;/m0./s1
